US06077832
5,6-Dichloro-2-(isopropylamino)-1-(beta-L-ribofuranosyl)-1H-benzimidazole
5,6-Dichloro-2-(isopropylamino)-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole (7.50 g, 14.93 mmol), sodium carbonate (1.72 g, 16.23 mmol), water (29 mL), methanol (100 mL) and ethanol (100 mL) were used according to general procedure III. The product was purified by silica gel chromatography using 55:45 dichloromethanelmethanol to afford 4.72 g (84%) of a white foam. Analytical data were consistent with the assigned structure.

reactant | 5,6-Dichloro-2-(isopropylamino)-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | 14.93 mmol, 7.50 g | ClC1=CC2=C(N(C(=N2)NC(C)C)[C@@H]2[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O2)COC(C)=O)C=C1Cl | C21H25Cl2N3O7
reactant | sodium carbonate | 16.23 mmol, 1.72 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 29 mL | O | H2O
reactant | methanol | 100 mL | CO | CH4O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5,6-Dichloro-2-(isopropylamino)-1-(beta-L-ribofuranosyl)-1H-benzimidazole | 4.72 g, 84% | ClC1=CC2=C(N(C(=N2)NC(C)C)[C@@H]2[C@@H](O)[C@@H](O)[C@@H](O2)CO)C=C1Cl | C15H19Cl2N3O4
